US08895582B2
To a solution of ethyl 5-(3-fluorophenyl)isoxazole-3-carboxylate (25.8 g, 110 mmol, 1.0 equiv.) in EtOH (300 mL), was added hydrazine (10.5 mL, 330 mmol, 3.0 equiv.). The mixture was stirred at 80° C. for 1 h and then cooled to RT The precipitate was filtered, washed with H2O, and dried in vacuum to give 5-(3-fluorophenyl)isoxazole-3-carbohydrazide (20 g). The filtrate was concentrated and the resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give desired product (2.5 g). LRMS (M+H+) m/z 222.0.

reactant | ethyl 5-(3-fluorophenyl)isoxazole-3-carboxylate | 110 mmol, 25.8 g, 1.0 equiv. | FC=1C=C(C=CC1)C1=CC(=NO1)C(=O)OCC | C12H10FNO3
reactant | hydrazine | 330 mmol, 10.5 mL, 3.0 equiv. | NN | H4N2
solvent | EtOH | 300 mL | CCO | C2H6O
product | 5-(3-fluorophenyl)isoxazole-3-carbohydrazide | 20 g | FC=1C=C(C=CC1)C1=CC(=NO1)C(=O)NN | C10H8FN3O2
